US05212187
N-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N'-[3-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]propyl]urea
Preparation is effected analogously to Example 63, using 0.85 g (3 mmol) of N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,3-propanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.75 g (3.2 mmol) of 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine as starting materials. Working up by chromatography (eluant: chloroform/methanol 9+1) analogously to Example 63 yields the purified title compound in the form of an oil; MS (+FAB method): m/z (rel. int. [%])=541 ([M+H]+, 2), 196 (100); IR (KBr): 1650 cm-1 (C=O). For analytical purposes a sample is converted into the maleic acid salt and recrystallised from ether/ethanol; m.p.: 95°-98° C.

reactant | N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,3-propanediamine | 3 mmol, 0.85 g | CN(CCCN)CCC(C1=NC=CC=C1)C1=CC=CC=C1 | C18H25N3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | 3.2 mmol, 0.75 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N'-[3-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]propyl]urea | N(C(=N)N)C=1SC=C(N1)CSCCNC(=O)NCCCN(C)CCC(C1=NC=CC=C1)C1=CC=CC=C1 | C26H36N8OS2
